US08563573B2
To a solution of 2-tert-butyl-5-chloro-1H-pyrrolo[2,3-c]pyridine (5.0 g, 24 mmol) in NH3.H2O (400 mL) was added CuSO4.5H2O (595 mg, 2.39 mmol). The mixture was heated at 200° C. (3 MPa pressure) for 24 h. After cooling, the mixture was extracted with CH2Cl2 (150 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under reduced pressure to give a residue, which was purified by column (petroleum ether/ethyl acetate=10/1) to obtain 2-tert-butyl-1H-pyrrolo[2,3-c]pyridin-5-amine (1.2 g, 27%). 1H NMR (400 MHz, DMSO) δ 10.66 (br s, 1H), 8.02 (s, 1H), 6.39 (s, 1H), 5.86 (d, J=1.2 Hz, 1H), 4.85 (br s, 2H), 1.29 (s, 9H).

reactant | 2-tert-butyl-5-chloro-1H-pyrrolo[2,3-c]pyridine | 24 mmol, 5.0 g | C(C)(C)(C)C1=CC=2C(=CN=C(C2)Cl)N1 | C11H13ClN2
reactant | NH3.H2O | 400 mL | N.O
product | 2-tert-butyl-1H-pyrrolo[2,3-c]pyridin-5-amine | 1.2 g, 27% | C(C)(C)(C)C1=CC=2C(=CN=C(C2)N)N1 | C11H15N3
